US04374248
3-{2-[(5-Hydroxymethyl-1H-imidazol-4-yl)methylthio]ethylamino}-4-methylamino-1,2,5-thiadiazole 1,1-dioxide
2-[(5-Hydroxymethyl-1H-imidazol-4-yl)methylthio]ethylamine [prepared according to the procedure described in Belgian Pat. No. 843,840] is reacted with 3,4-dimethoxy-1,2,5-thiadiazole 1,1-dioxide and the resultant 3-{2-[(5-hydroxymethyl-1H-imidazol-4-yl)methylthio]ethylamino}-4-methoxy-1,2,5-thiadiazole, 1,1-dioxide is treated with excess methylamine according to the general procedure described in Example 2, and the title compound is thereby produced.

reactant | 2-[(5-Hydroxymethyl-1H-imidazol-4-yl)methylthio]ethylamine | OCC1=C(N=CN1)CSCCN | C7H13N3OS
reactant | 3,4-dimethoxy-1,2,5-thiadiazole 1,1-dioxide | COC1=NS(N=C1OC)(=O)=O | C4H6N2O4S
reactant | 3-{2-[(5-hydroxymethyl-1H-imidazol-4-yl)methylthio]ethylamino}-4-methoxy-1,2,5-thiadiazole | OCC1=C(N=CN1)CSCCNC1=NSN=C1OC | C10H15N5O2S2
reactant | methylamine | CN | CH5N
product | 3-{2-[(5-Hydroxymethyl-1H-imidazol-4-yl)methylthio]ethylamino}-4-methylamino-1,2,5-thiadiazole 1,1-dioxide | OCC1=C(N=CN1)CSCCNC1=NS(N=C1NC)(=O)=O | C10H16N6O3S2
